US09398767B2
Synthesis of N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carboxamide (example 3)
To 175 mg (0.80 mmol) of N-[2-(trimethylsilyl)benzyl]cyclopropanamine in 5 ml of dry tetrahydrofurane was added 0.234 ml (1.68 mmol) of triethylamine, followed by a solution of 187 mg (0.88 mmol) of 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride in 3 ml of tetrahydrofurane. The reaction mixture was stirred under reflux for 3 hours. After cooling down, the reaction mixture was filtered, and the filtrate was evaporated under vacuum. The residue was dissolved in ethyl acetate/water. The aqueous phase was further extracted with ethyl acetate. The combined organic phase were dried and evaporated under vacuum to give 209 mg of the expected product.

reactant | N-[2-(trimethylsilyl)benzyl]cyclopropanamine | 0.80 mmol, 175 mg | C[Si](C1=C(CNC2CC2)C=CC=C1)(C)C | C13H21NSi
reactant | triethylamine | 1.68 mmol, 0.234 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.88 mmol, 187 mg | FC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4ClF3N2O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 3 ml | O1CCCC1 | C4H8O
product | N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-N-[2-(trimethylsilyl)benzyl]-1H-pyrazole-4-carboxamide | 209 mg | C1(CC1)N(C(=O)C=1C(=NN(C1F)C)C(F)F)CC1=C(C=CC=C1)[Si](C)(C)C | C19H24F3N3OSi
